US04082771
N-n-Hexyl-N-(3-carbethoxy-5-ethyl-2-thienyl)-2-methylpropanamide
Ethyl 2-amino-5-ethyl-3-thiophenecarboxylate (Chemische Berichte 99, 94 (1966) )was converted into N-(3-carbethoxy-5-ethyl-2-thienyl)-2-methylpropanamide by the method described in Example 41. Alkylation of the unpurified product with n-hexyl iodide as described in Example 43 gave the title compound as a light yellow oil, b.p. 145°-147° C/0.25 mm. NMR showed that the material was the correct product.

reactant | Ethyl 2-amino-5-ethyl-3-thiophenecarboxylate | NC=1SC(=CC1C(=O)OCC)CC | C9H13NO2S
reactant | N-(3-carbethoxy-5-ethyl-2-thienyl)-2-methylpropanamide | C(=O)(OCC)C1=C(SC(=C1)CC)NC(C(C)C)=O | C13H19NO3S
reactant | n-hexyl iodide | C(CCCCC)I | C6H13I
product | N-n-Hexyl-N-(3-carbethoxy-5-ethyl-2-thienyl)-2-methylpropanamide | C(CCCCC)N(C(C(C)C)=O)C=1SC(=CC1C(=O)OCC)CC | C19H31NO3S
